US05208240
Scheme A, Step h: 2-[[4-[3-[(6-Amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]amino]-acetic acid, 1,1-dimethylethyl ester
Dissolve 4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]-alpha-methyl-benzenepropanoic acid (1.07 g, 3.64 mmol) in tetrahydrofuran (15 mL) and treat with N-methylmorpholine (0.4 mL, 3.64 mmol). Cool to -20° C. and treat with isobutyl chloroformate (0.47 mL, 3.64 mmol). Stir for 30 minutes and add a solution of 1,3-dipropyl-5,6-diaminouracil (0.82 g, 3.64 mmol) in dimethylformamide (5 mL). Stir for 3 hours at -20° C., warm to room temperature and dilute with ethyl ether (200 mL). Separate the organic phase, wash with water (200 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by flash chromatography to yield the title compound.

reactant | 4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]-alpha-methyl-benzenepropanoic acid | 3.64 mmol, 1.07 g | CC(C)(OC(CNC1=CC=C(C=C1)CC(C(=O)O)C)=O)C | C16H23NO4
reactant | N-methylmorpholine | 3.64 mmol, 0.4 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.64 mmol, 0.47 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1,3-dipropyl-5,6-diaminouracil | 3.64 mmol, 0.82 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-[[4-[3-[(6-Amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]amino]-acetic acid, 1,1-dimethylethyl ester | NC1=C(C(N(C(N1CCC)=O)CCC)=O)NC(C(CC1=CC=C(C=C1)NCC(=O)OC(C)(C)C)C)=O | C26H39N5O5
